US06043366
8-Cyclodecyl-1-phenyl-3-(2-pvrrolidin-1-vI-ethyl)-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:2)
The title compound, white solid, m. p. 179° C. and MS: m/e=467.3 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 1-(2-chloroethyl)-pyrrolidine.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 1-(2-chloroethyl)-pyrrolidine | ClCCN1CCCC1 | C6H12ClN
product | 8-Cyclodecyl-1-phenyl-3-(2-pvrrolidin-1-vI-ethyl)-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CCN2CCCC2)=O)CC1 | InChI=1S/C29H46N4O.ClH/c34-28-29(17-21-31(22-18-29)26-13-7-4-2-1-3-5-8-14-26)33(27-15-9-6-10-16-27)25-32(28)24-23-30-19-11-12-20-30;/h6,9-10,15-16,26H,1-5,7-8,11-14,17-25H2;1H
